US08293911B2
Step B: 5-Bromo-1,3-dimethoxy-2-amino-benzene
5-Bromo-1,3-dimethoxy-2-nitro-benzene (2.6 g, 10 mmol) was dissolved in 200 mL of methanol and 40 mL of water was added, followed by 2.5 g of Fe powder and 2.5 g of ammonium chloride. The mixture was heated to reflux at 80° C. for 2 hours and the cooled reaction mixture was filtered and washed with methanol. The filtrate was evaporated under reduce pressure to give the crude product, which was used for next step without further purification.

reactant | 5-Bromo-1,3-dimethoxy-2-nitro-benzene | 10 mmol, 2.6 g | BrC=1C=C(C(=C(C1)OC)[N+](=O)[O-])OC | C8H8BrNO4
reactant | water | 40 mL | O | H2O
reactant | ammonium chloride | 2.5 g | [Cl-].[NH4+]
solvent | methanol | 200 mL | CO | CH4O
catalyst | Fe | 2.5 g | [Fe] | Fe
product | 5-Bromo-1,3-dimethoxy-2-amino-benzene | BrC=1C=C(C(=C(C1)OC)N)OC | C8H10BrNO2
